US05461066
1.0 g of 3-methylsulphonyl-4-(4-BOC-aminopiperidino)benzoic acid [obtainable by reacting methyl 3-methylsulphonyl-4-fluorobenzoate with 4-BOC-aminopiperidine and subsequently hydrolyzing the product to give the free acid] is dissolved in 15 ml of 1-methylpyrrolidone, and 0.67 g of 1-methyl-2-chloropyridinium chloride is added to this solution, which is stirred for 15 min. 0.9 g of guanidinium chloride and 2.6 ml of diisopropylethylamine are then added and the mixture is stirred at room temperature for 1 hr. After customary working-up, and after chromatography on silica gel (flash process, ethylacetate/10% methanol), N-diaminomethylene-3-methylsulphonyl-4-(4-BOC-aminopiperidino)benzamide is obtained.

reactant | 3-methylsulphonyl-4-(4-BOC-aminopiperidino)benzoic acid | 1.0 g | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1N1C(CC(CC1)C(=O)OC(C)(C)C)N | C18H26N2O6S
reactant | methyl 3-methylsulphonyl-4-fluorobenzoate | CS(=O)(=O)C=1C=C(C(=O)OC)C=CC1F | C9H9FO4S
reactant | 4-BOC-aminopiperidine | C(=O)(OC(C)(C)C)C1CCN(CC1)N | C10H20N2O2
reactant | 1-methyl-2-chloropyridinium chloride | 0.67 g | [Cl-].C[N+]1=C(C=CC=C1)Cl
reactant | guanidinium chloride | 0.9 g | [Cl-].NC(=[NH2+])N
reactant | diisopropylethylamine | 2.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | N-diaminomethylene-3-methylsulphonyl-4-(4-BOC-aminopiperidino)benzamide | NC(=NC(C1=CC(=C(C=C1)N1C(CC(CC1)C(=O)OC(C)(C)C)N)S(=O)(=O)C)=O)N | C19H29N5O5S
